US08044236B2
(4) Preparation of 5-{2-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}ethyl}-1H-tetrazol e (compound No. 69)
A mixture of 3-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}propionitrile (227 mg, 0.5 mmol), sodium azide (98 mg, 1.5 mmol), triethylamine hydrochloride (103 mg, 0.75 mol) and 1-methyl-2-pyrrolidone (5 mL) was stirred at 150° C. for 4 hours under argon atmosphere. The reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=1:1) to give the title compound (45 mg, 18%) as a white solid.

reactant | 3-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}propionitrile | 0.5 mmol, 227 mg | C(C)(C)(C)C1=CC=C(COC2=C(C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)CCC#N)C=C1 | C27H26F3NO2
reactant | sodium azide | 1.5 mmol, 98 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.75 mol, 103 mg | Cl.C(C)N(CC)CC
reactant | 1-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 5-{2-{4-[4-(tert-butyl)benzyloxy]-4′-(trifluoromethoxy)biphenyl-3-yl}ethyl}-1H-tetrazol e | 45 mg, 18% | C(C)(C)(C)C1=CC=C(COC2=C(C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)CCC2=NN=NN2)C=C1 | C27H27F3N4O2
